datasets/RMG-dataset.csv
rxn,Ea
[C:0]([C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([C:4]([H:15])([H:16])[H:17])[C:5]([C:6](=[C:7]([H:21])[H:22])[H:20])([H:18])[H:19])([H:10])[H:11])([H:8])[H:9]>>[C:0]1([H:8])([H:9])[C:1]([H:10])([H:11])[C:2]([C:3]([H:12])([H:13])[H:14])([C:4]([H:15])([H:16])[H:17])[C:5]([H:18])([H:19])[C:6]([H:20])[C:7]1([H:21])[H:22],26.3592
[C:0](=[C:1]=[C:2]=[C:3]([c:4]1[c:5]([H:13])[c:6]([H:14])[c:7]([H:15])[c:8]([H:16])[c:9]1[H:17])[H:12])([H:10])[H:11].[H:18]>>[C:0](=[C:1]=[C:2]([C:3]([c:4]1[c:5]([H:13])[c:6]([H:14])[c:7]([H:15])[c:8]([H:16])[c:9]1[H:17])[H:12])[H:18])([H:10])[H:11],16.794576
[O:0]=[C:1]([O:2][H:4])[H:3].[O:5][H:6]>>[H:4][O:5][H:6].[O:0]=[C:1]([O:2])[H:3],-21.200328
[C:0]([C:1]#[C:2][C:3]([H:7])([H:8])[H:9])([H:4])([H:5])[H:6].[C:10]([C:11]([C:12]([H:17])([H:18])[H:19])[H:16])([H:13])([H:14])[H:15]>>[C:0]([C:1](=[C:2][C:3]([H:7])([H:8])[H:9])[C:11]([C:10]([H:13])([H:14])[H:15])([C:12]([H:17])([H:18])[H:19])[H:16])([H:4])([H:5])[H:6],31.2545
[C:0]([C:1]=[S:2])([H:3])([H:4])[H:5].[C:6]([c:7]1[c:8]([H:16])[c:9]([H:17])[c:10]([H:18])[c:11]([H:19])[c:12]1[H:20])([H:13])([H:14])[H:15]>>[C:0]([C:1](=[S:2])[H:13])([H:3])([H:4])[H:5].[C:6]([c:7]1[c:8]([H:16])[c:9]([H:17])[c:10]([H:18])[c:11]([H:19])[c:12]1[H:20])([H:14])[H:15],50.6264
[C:4]#[N:5].[O:0]=[N:1][O:2][H:3]>>[H:3][C:4]#[N:5].[O:0]=[N:1][O:2],0.0
[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:11])[H:12])[H:10])=[C:5]([C:6]([H:14])([H:15])[H:16])[H:13])[H:9])([H:7])[H:8].[c:17]1[c:18]([H:23])[c:19]([H:24])[c:20]([H:25])[c:21]([H:26])[c:22]1[H:27]>>[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:11])[H:12])[H:10])[C:5]([C:6]([H:14])([H:15])[H:16])([H:13])[c:17]1[c:18]([H:23])[c:19]([H:24])[c:20]([H:25])[c:21]([H:26])[c:22]1[H:27])[H:9])([H:7])[H:8],-14.7695
[C:0](#[C:1][C:2]([C:3]#[C:4][H:8])([H:6])[H:7])[H:5].[C:9](=[C:10]([H:12])[H:13])[H:11]>>[C:0](#[C:1][C:2]([C:3]#[C:4][H:8])[H:7])[H:5].[H:6][C:9](=[C:10]([H:12])[H:13])[H:11],-11.2968
[C:0]([C:1]([C:2]([H:9])([H:10])[H:11])[C:3]([C:4]([H:12])([H:13])[H:14])[C:5]([H:15])([H:16])[H:17])([H:6])([H:7])[H:8]>>[C:0]([C:1]([C:2]([H:9])([H:10])[H:11])=[C:3]([C:4]([H:12])([H:13])[H:14])[C:5]([H:15])([H:16])[H:17])([H:6])([H:7])[H:8],0.0
[C:0]([C:1](=[C:2]([c:3]1[c:4]([H:19])[c:5]([H:20])[c:6]([H:21])[c:7]([H:22])[c:8]1[H:23])[H:18])[c:9]1[c:10]([H:24])[c:11]([H:25])[c:12]([H:26])[c:13]([H:27])[c:14]1[H:28])([H:15])([H:16])[H:17].[C:29]([C:30]([C:31]([H:36])([H:37])[H:38])[C:32]([H:39])([H:40])[H:41])([H:33])([H:34])[H:35]>>[C:0]([C:1]([C:2]([c:3]1[c:4]([H:19])[c:5]([H:20])[c:6]([H:21])[c:7]([H:22])[c:8]1[H:23])([H:18])[C:30]([C:29]([H:33])([H:34])[H:35])([C:31]([H:36])([H:37])[H:38])[C:32]([H:39])([H:40])[H:41])[c:9]1[c:10]([H:24])[c:11]([H:25])[c:12]([H:26])[c:13]([H:27])[c:14]1[H:28])([H:15])([H:16])[H:17],16.1084
[C:0]1([H:9])=[C:1]([H:10])[c:2]2[c:3]([H:11])[c:4]([H:12])[c:5]([H:13])[c:6]([H:14])[c:7]2[C:8]1([H:15])[H:16].[O:17]>>[C:0]1([H:9])=[C:1]([H:10])[c:2]2[c:3]([H:11])[c:4]([H:12])[c:5]([H:13])[c:6]([H:14])[c:7]2[C:8]1[H:16].[H:15][O:17],0.0
[C:0]([C:1]([C:2]([H:11])([H:12])[H:13])[C:3]([C:4]1([H:16])[C:5]([H:17])([H:18])[C:6]([H:19])([H:20])[C:7]1([H:21])[H:22])([H:14])[H:15])([H:8])([H:9])[H:10]>>[C:0]([C:1]([C:2]([H:11])([H:12])[H:13])([C:3]([C:4]1[C:5]([H:17])([H:18])[C:6]([H:19])([H:20])[C:7]1([H:21])[H:22])([H:14])[H:15])[H:16])([H:8])([H:9])[H:10],148.114
[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([C:3]([H:11])([H:12])[H:13])[H:7])([H:4])([H:5])[H:6].[C:14]([C:15]([C:16]([O:17][O:18])([H:24])[H:25])([H:22])[H:23])([H:19])([H:20])[H:21]>>[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])[C:3]([H:11])([H:12])[H:13])([H:4])([H:5])[H:6].[H:7][O:18][O:17][C:16]([C:15]([C:14]([H:19])([H:20])[H:21])([H:22])[H:23])([H:24])[H:25],66.944
[C:0](#[C:1][C:2]#[C:3][H:5])[H:4].[C:6]([H:7])([H:8])[H:9]>>[C:0](=[C:1]([C:2]#[C:3][H:5])[C:6]([H:7])([H:8])[H:9])[H:4],34.8527
[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:11])[H:12])[H:10])=[C:5]([C:6]([H:14])([H:15])[H:16])[H:13])[H:9])([H:7])[H:8].[C:17](=[C:18]([C:19]([C:20](=[C:21]([H:27])[H:28])[H:26])[H:25])[H:24])([H:22])[H:23]>>[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:11])[H:12])[H:10])([C:5]([C:6]([H:14])([H:15])[H:16])[H:13])[C:19]([C:18](=[C:17]([H:22])[H:23])[H:24])([C:20](=[C:21]([H:27])[H:28])[H:26])[H:25])[H:9])([H:7])[H:8],78.2408
[S:0]([S:1][H:3])[H:2].[S:4]([C:5]([c:6]1[c:7]([H:14])[c:8]([H:15])[c:9]([H:16])[c:10]([H:17])[c:11]1[H:18])[H:13])[H:12]>>[H:2][C:5]([S:4][H:12])([c:6]1[c:7]([H:14])[c:8]([H:15])[c:9]([H:16])[c:10]([H:17])[c:11]1[H:18])[H:13].[S:0][S:1][H:3],-1.2552
[C:0](=[C:1]([H:4])[H:5])([H:2])[H:3].[C:6](=[C:7][S:8][H:11])([H:9])[H:10]>>[C:0](=[C:1]([H:4])[H:5])[H:3].[H:2][C:7](=[C:6]([H:9])[H:10])[S:8][H:11],34.3088
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[H:5])[H:4]>>[C:0](#[C:1][C:2]([C:3]([H:7])[H:8])([H:5])[H:6])[H:4],178.627512
